US04794109
(9b) 4-(tetrazol-1-yl)-butyric acid
6.65 g of 4-(tetrazol-1-yl)-butyric acid ethyl ester are stirred in 42.7 ml of acetic acid, 8.1 ml of concentrated HCl and 17.2 ml of water for 3 hours at 100°. After cooling, the reaction mixture is concentrated three times each with toluene and ether under reduced pressure in a rotary evaporator. After drying under a high vacuum, the title compound is obtained.

reactant | 4-(tetrazol-1-yl)-butyric acid ethyl ester | 6.65 g | C(C)OC(CCCN1N=NN=C1)=O | C7H12N4O2
reactant | HCl | 8.1 ml | Cl | ClH
reactant | water | 17.2 ml | O | H2O
solvent | acetic acid | 42.7 ml | C(C)(=O)O | C2H4O2
product | 4-(tetrazol-1-yl)-butyric acid | N1(N=NN=C1)CCCC(=O)O | C5H8N4O2
